US03976653
To a stirred solution of 6.92 g. of cis-1,2,3,4,4a,5,10,10a-octahydro-5,5-dimethylbenzo[g]quinolin-7-ol in 120 ml. of warm pyridine there was added dropwise 8.78 g. of cyclopentanecarbonyl chloride and the resulting reaction mixture was stirred for five and one-half hours. The reaction mixture was worked up, using partitioning between water and diethyl ether, in a manner similar to that described in Example 13 to yield approximately 12 g. of crude cis-1,2,3,4,4a,5,10,10a-octahydro-1-cyclopentanecarbonyl-5,5-dimethyl-7-cyclopentanecarbonyloxybenzo[g]quinoline in which some solvent remained. This product in 75 ml. of tetrahydrofuran was added dropwise to 1.25 g. of lithium aluminum hydride in 25 ml. of tetrahydrofuran. After this addition was completed, the reaction mixture was stirred and refluxed for 3 hours. The reaction mixture was then worked up to yield crude cis-1,2,3,4,4a,5,10,10a-octahydro-1-(cyclopentylmethyl)-5,5-dimethylbenzo[g]quinolin-7-ol which was converted to the p-toluenesulfonate salt, and off-white solid melting at 220°-222°C.

reactant | cis-1,2,3,4,4a,5,10,10a-octahydro-5,5-dimethylbenzo[g]quinolin-7-ol | CC1([C@H]2CCCN[C@H]2CC2=C1C=C(C=C2)O)C | C15H21NO
reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | cis-1,2,3,4,4a,5,10,10a-octahydro-1-cyclopentanecarbonyl-5,5-dimethyl-7-cyclopentanecarbonyloxybenzo[g]quinoline | C1(CCCC1)C(=O)N1CCC[C@@H]2C(C3=C(C[C@H]12)C=CC(=C3)OC(=O)C3CCCC3)(C)C | C27H37NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | cis-1,2,3,4,4a,5,10,10a-octahydro-1-(cyclopentylmethyl)-5,5-dimethylbenzo[g]quinolin-7-ol | C1(CCCC1)CN1CCC[C@@H]2C(C3=C(C[C@H]12)C=CC(=C3)O)(C)C | C21H31NO
